US06458781B1
Preparation of (S)-2-Isopropylamino-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride
A suspension of (S)-2-isopropylamino-4-methyl-pentanoic acid (433 mg, 2.50 mmol), N-methylmorpholine (0.275 mL, 2.50 mmol), and 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride (750 mg, 2.52 mmol) in dry DMF (12 mL) was treated with Triton® B (2.27 mL, 4.99 mmol, 40 wt percent solution in methanol, Aldrich, Milwaukee, Wis.), a clear solution was obtained and cooled to 0° C. in an ice-water bath. Solid O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.940 g, 2.50 mmol) was then added. After stirring at 0° C. for 90 minutes the cooling bath was removed, and the stirring was continued at ambient temperature for 30 minutes. After this period, the reaction mixture was mixed with 100 mL of diethyl ether; the resulting mixture was successively washed with saturated aqueous NaHCO3 solution (100 mL), brine (100 mL), and was dried over Na2SO4. The solution was concentrated in vacuo affording a viscous oil. The crude product was purified by flash chromatography (EtOAc:hexanes:MeOH 50:50:5). The free amine was dissolved in 5 mL of ethyl ether and treated with ethereal HCl to afford 368 mg (35%) of the pure titled compound as a white foam: mp 100-103° C.

reactant | (S)-2-isopropylamino-4-methyl-pentanoic acid | 2.50 mmol, 433 mg | C(C)(C)N[C@H](C(=O)O)CC(C)C | C9H19NO2
reactant | N-methylmorpholine | 2.50 mmol, 0.275 mL | CN1CCOCC1 | C5H11NO
reactant | 4,4-bis-(4-fluoro-phenyl)-butylamine monohydrochloride | 2.52 mmol, 750 mg | Cl.FC1=CC=C(C=C1)C(CCCN)C1=CC=C(C=C1)F
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.50 mmol, 0.940 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | (S)-2-Isopropylamino-4-methyl-pentanoic acid [4,4-bis-(4-fluoro-phenyl)-butyl]-amide monohydrochloride | 368 mg, 35% | Cl.FC1=CC=C(C=C1)C(CCCNC([C@H](CC(C)C)NC(C)C)=O)C1=CC=C(C=C1)F | InChI=1S/C25H34F2N2O.ClH/c1-17(2)16-24(29-18(3)4)25(30)28-15-5-6-23(19-7-11-21(26)12-8-19)20-9-13-22(27)14-10-20;/h7-14,17-18,23-24,29H,5-6,15-16H2,1-4H3,(H,28,30);1H/t24-;/m0./s1
